US06114470
Synthesis of N-methyl-N-(2-hydroxyethyl)-p-toluidine (MHPT)
N-(2-hydroxyethyl)-p-toluidine, 50 g, was combined with 1 g 5% palladium on carbon catalyst and charged to a pressure reactor. The pressure reactor was heated to 120° C. and fed hydrogen gas to maintain 120 psig pressure. Formaldehyde, 178 g 37% solution in water, was fed to the pressure reactor over 10 hours. After hydrogen uptake ceased, the reaction mass was filtered to remove catalyst and decanted to separate the aqueous phase.

reactant | N-(2-hydroxyethyl)-p-toluidine | OCCNC1=CC=C(C=C1)C | C9H13NO
reactant | hydrogen | [H][H] | H2
reactant | Formaldehyde | C=O | CH2O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | water | O | H2O
product | N-methyl-N-(2-hydroxyethyl)-p-toluidine | CN(C1=CC=C(C=C1)C)CCO | C10H15NO
